US07968554B2
A suspension of 3-hydroxy-4-methylbenzoic acid (10.73 g, 70.5 mmol, Lancaster) in acetic anhydride (25 mL, 265 mmol, Aldrich) was heated at reflux for 5 hours. After cooling to room temperature, the mixture was poured into an ice-water mixture (600 mL) and stirred overnight. Solid clumps were broken up and collected by filtration. The residue was washed with water and dried in a vacuum oven to give 3-acetoxy-4-methyl-benzoic acid as a tan solid. (Yield 11.82 g). 3-Acetoxy-4-methyl-benzoic acid (1.94 g, 10 mmol) was suspended in thionyl chloride (3 mL, 40 mmol, Aldrich) and N,N-dimethyl-formamide (3 drops) and heated at reflux for 2 hours. After cooling to room temperature, the mixture was diluted with toluene (30 mL) and concentrated under reduced pressure. The resulting oil was dissolved in dichloromethane (30 mL) and added dropwise to a solution of 4-chloroaniline (1.34 g, 10.5 mmol, Aldrich) and N,N-diisopropylethylamine (1.6 g, 12.5 mmol) in dichloromethane (50 mL). After stirring for another 2 hours, the mixture was diluted with water (50 mL) and stirred for another 30 minutes. The layers were separated. The organic layer was washed with water (50 mL). Aqueous layers were back washed with dichloromethane (50 mL). Organic layers were then combined and concentrated. The residue was dissolved in mixture of tetrahydrofuran (25 mL), methanol (25 mL) and 1 N aqueous sodium hydroxide (10 mL, 10 mmol). After stirring for 16 hours, the mixture was diluted with water (100 mL) and acetic acid (5 mL) and concentrated under reduced pressure to remove most of the organic solvent. Precipitate formed was collected by filtration and washed with water, and dried to give N-(4-chloro-phenyl)-3-hydroxy-4-methyl-benzamide as off-white crystals. (Yield 2.57 g).

reactant | 3-Acetoxy-4-methyl-benzoic acid | 10 mmol, 1.94 g | C(C)(=O)OC=1C=C(C(=O)O)C=CC1C | C10H10O4
reactant | thionyl chloride | 40 mmol, 3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-chloroaniline | 10.5 mmol, 1.34 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | N,N-diisopropylethylamine | 12.5 mmol, 1.6 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydroxide | 10 mmol, 1 N, 10 mL | [OH-].[Na+]
catalyst | N,N-dimethyl-formamide | 3 drops | CN(C=O)C | C3H7NO
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | N-(4-chloro-phenyl)-3-hydroxy-4-methyl-benzamide | ClC1=CC=C(C=C1)NC(C1=CC(=C(C=C1)C)O)=O | C14H12ClNO2
